US07754759B2
To a solution of (7-benzenesulfonyl-4-oxo-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester (141 mg, 0.338 mmol) in THF (15 mL) cooled at −78° C. was added t-BuLi (1.7M in hexanes, 0.68 mL) dropwise. The reaction was allowed to warm to 0° C. for 3 hours, then it was quenched with CO2 (gas) and diluted with water. The volatiles were removed in vacuo and the aqueous residue was washed with Et2O and then acidified to give a white precipitate that was filtered and dried to afford 7-benzenesulfonyl-2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-chroman-8-carboxylic acid (55 mg, 35% yield) as a white powder.

reactant | (7-benzenesulfonyl-4-oxo-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester | 0.338 mmol, 141 mg | C(C)(C)(C)OC(N(C)CC1OC2=CC(=CC=C2C(C1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C22H25NO6S
reactant | t-BuLi | 1.7M, 0.68 mL | [Li]C(C)(C)C
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 7-benzenesulfonyl-2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-chroman-8-carboxylic acid | 55 mg, 35% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CCC(OC2=C1C(=O)O)CN(C)C(=O)OC(C)(C)C | C23H27NO7S
